US07893056B2
To a solution of (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid, N,N-diisopropylethylamine salt, isopropanol solvate (33.64 g, 68.0 mmol) in DMF (230 mL) was added (9aS)-8-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)octahydropyrazino[2,1-c][1,4]oxazine (20.16 g, 71.4 mmol), N-methylmorpholine (30 mL, 273 mmol), 1-hydroxy-7-azabenzotriazole (11.10 g, 81.6 mmol), and EDC (15.64 g, 81.6 mmol). The solution was stirred overnight and then diluted with Et2O (500 mL). The mixture was washed with water (2×200 mL), and the combined aqueous phase was extracted with a fresh portion of Et2O (100 mL). This Et2O phase was then washed with water (50 mL). This extraction-wash procedure was repeated 6 times, and the total combined organic phase was then diluted with DCM (250 mL). The organic phase was then dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give crude [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-6-[(9aS)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (42.32 g, >100% crude yield) as a light yellow foam. LCMS: (M+H)+: 570.3.

reactant | isopropanol | 68.0 mmol, 33.64 g | C(C)(C)O | C3H8O
reactant | (9aS)-8-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)octahydropyrazino[2,1-c][1,4]oxazine | 71.4 mmol, 20.16 g | FC=1C(=NC(=NC1NN)C)N1C[C@H]2COCCN2CC1 | C12H19FN6O
reactant | N-methylmorpholine | 273 mmol, 30 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 81.6 mmol, 11.10 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 81.6 mmol, 15.64 g
reactant | DMF | 230 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-6-[(9aS)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 42.32 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1C[C@H]2COCCN2CC1)C | C29H40FN7O4
